US09290451B2
c) 2-[(6-Cyclohexyl-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester
The title compound was synthesized in analogy to Example 1, using 6-cyclohexyl-pyridine-2-carboxylic acid and 2-methyl-alanine methyl ester as starting materials, MS (LC/MS): 305.1 (M+H).

reactant | 6-cyclohexyl-pyridine-2-carboxylic acid | C1(CCCCC1)C1=CC=CC(=N1)C(=O)O | C12H15NO2
reactant | 2-methyl-alanine methyl ester | COC(C(N)(C)C)=O | C5H11NO2
product | 2-[(6-Cyclohexyl-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=NC(=CC=C1)C1CCCCC1)=O | C17H24N2O3
